US05192781
2.6 g of methyl (4-propyl-5-(4-nitrobenzyl)thiazol-2-yl)aminoacetate in 60 ml of methanol are hydrogenated at normal pressure and room temperature in the presence of Raney nickel. After filtration of the catalyst and concentration of the filtrate, the residue is taken up with acidified water. The aqueous phase is extracted with ether, rendered basic with sodium carbonate and extracted with ethyl acetate. After drying and concentration, the residue is taken up with pentane to give 1.8 g of methyl (4-propyl-5-(4-aminobenzyl)thiazol-2-yl)aminoacetate in the form of a beige solid melting at 106° C.

reactant | methyl (4-propyl-5-(4-nitrobenzyl)thiazol-2-yl)aminoacetate | 2.6 g | C(CC)C=1N=C(SC1CC1=CC=C(C=C1)[N+](=O)[O-])NCC(=O)OC | C16H19N3O4S
solvent | methanol | 60 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | methyl (4-propyl-5-(4-aminobenzyl)thiazol-2-yl)aminoacetate | 1.8 g | C(CC)C=1N=C(SC1CC1=CC=C(C=C1)N)NCC(=O)OC | C16H21N3O2S
